US07223788B2
tert-Butyl {1-[4-(2-amino-4-butoxybenzoylamino)-3-fluorophenyl]pyrrolidin-3-yl}methylcarbamate
tert-Butyl [1-(4-amino-3-fluorophenyl)pyrrolidin-3-yl]methylcarbamate was reacted with 4-butoxy-2-nitrobenzoic acid by method E, followed by hydrogenation. This resulted in the product with the molecular weight of 500.62 (C27H37FN4O4); MS (ESI): 501 (M+H+).

reactant | tert-Butyl [1-(4-amino-3-fluorophenyl)pyrrolidin-3-yl]methylcarbamate | NC1=C(C=C(C=C1)N1CC(CC1)CNC(OC(C)(C)C)=O)F | C16H24FN3O2
reactant | 4-butoxy-2-nitrobenzoic acid | C(CCC)OC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO5
product | tert-Butyl {1-[4-(2-amino-4-butoxybenzoylamino)-3-fluorophenyl]pyrrolidin-3-yl}methylcarbamate | NC1=C(C(=O)NC2=C(C=C(C=C2)N2CC(CC2)CNC(OC(C)(C)C)=O)F)C=CC(=C1)OCCCC | C27H37FN4O4
